US06878715B1
To a solution of (S)-1-(5-hydroxyhexyl)-7-benzyl-8-chloromethyl-3-methylxanthine (prepared as described for the synthesis of CT 30289) (2.3 g, 5.68 mmol) in methanol (50 ml) was added methylamine (40% in water, 50 ml). After stirring at room temperature for 2 hours, the solvent and excess reagent were evaporated under reduced pressure. A solution of triethylamine and ethanol (1:4) (100 ml) was added and then evaporated under reduced pressure to give (S)-1-(5-hydroxyhexyl)-7-benzyl-8-methylaminomethyl-3-methylxanthine as a white powder.

reactant | (S)-1-(5-hydroxyhexyl)-7-benzyl-8-chloromethyl-3-methylxanthine | O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CCl)C)C | C20H25ClN4O3
reactant | methylamine | 50 ml | CN | CH5N
solvent | methanol | 50 ml | CO | CH4O
product | (S)-1-(5-hydroxyhexyl)-7-benzyl-8-methylaminomethyl-3-methylxanthine | O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CNC)C)C | C21H29N5O3
